US07943609B2
(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropylamine (5.85 g, 16.9 mmol) was dissolved in 200 mL of anhydrous CH2Cl2 and the mixture was stirred under N2. To this solution were added triethylamine (4.70 mL, 33.8 mmol) and 4-chloro-3-nitroquinoline (3.51 g, 16.9 mmol). The reaction mixture soon became bright yellow. After stirring for 3 days, the reaction mixture was concentrated under reduced pressure. The resulting yellow solid was partitioned between 200 mL H2O and 200 mL CH2Cl2. The layers were separated and the organic portion was washed with H2O and then brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting light brown oil was dissolved in about 200 mL of refluxing hexanes. A small amount of brown precipitate formed and was removed by filtration. The hexanes solution was concentrated to give a yellow solid. Chromatography (SiO2, 10% ethyl acetate/CH2Cl2) gave N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-3-nitroquinolin-4-amine (6.51 g) as a yellow solid.

reactant | (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropylamine | 16.9 mmol, 5.85 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)N)(C)C | C17H41NO2Si2
reactant | triethylamine | 33.8 mmol, 4.70 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 16.9 mmol, 3.51 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | ethyl acetate CH2Cl2 | C(C)(=O)OCC.C(Cl)Cl
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-3-nitroquinolin-4-amine | 6.51 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)C | C26H45N3O4Si2
